US04400379
A mixture of 2-{2-(2,2,2-trifluoroacetamido)-4-thiazolyl}-2-methoxyiminoacetic acid (syn isomer, 0.8 g.), dimethylformamide (0.20 g.), phosphorus oxychloride (0.41 g.) and ethyl acetate (10 ml.) was stirred for 30 minutes under ice-cooling to prepare the activated acid solution in a similar manner to that of Example 2-(1). On the other hand, a solution of 7-amino-3-methoxy-3-cephem-4-carboxylic acid hydrochloride (0.6 g.) and trimethylsilylacetamide (3 g.) in ethyl acetate (15 ml.) was stirred at 40° C. for 3 hours. To the solution was added dropwise the activated acid solution at -10° to -20° C. in 2 minutes, and the mixture was stirred at the same temperature for 1.5 hours. After water (10 ml.) was added to the resultant mixture, the ethyl acetate layer was separated and allowed to stand. The precipitates were collected by filtration to give 7-[2-} 2-(2,2,2-trifluoroacetamido)-4-thiazolyl}-2-methoxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylic acid (syn isomer, 0.3 g.). The aqueous layer, which was separated from the ethyl acetate layer, was extracted with ethyl acetate, and the extract was combined with the mother liquor obtained above. The ethyl acetate solution was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure, and the residue was washed with diethyl ether to give the same object compound (0.25 g.), Total yield 0.55 g.

reactant | 2-{2-(2,2,2-trifluoroacetamido)-4-thiazolyl}-2-methoxyiminoacetic acid | 0.8 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC)(F)F | C8H6F3N3O4S
reactant | phosphorus oxychloride | 0.41 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-methoxy-3-cephem-4-carboxylic acid hydrochloride | 0.6 g | Cl.NC1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O
reactant | trimethylsilylacetamide | 3 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | dimethylformamide | 0.20 g | CN(C=O)C | C3H7NO
product | 3-methoxy-3-cephem-4-carboxylic acid | 0.3 g | COC=1CS[C@H]2N(C1C(=O)O)C(C2)=O | C8H9NO4S
